Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
digoxin and heparin
 
Attending: ___
 
Chief Complaint:
agitation; MICU admission for hypotension

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ lady with AFib on Warfarin, ___ 
(EF55-60%), h/o TIA, dementia, and CKD who presented to ___ 
___ with agitation and was transferred due to hypotension.

Per daughter, in early ___ the patient was living 
independently with her husband, fully mobile.  In late ___ 
she was hospitalized and since then she has had a progressive 
decline in mental status (diagnosed with dementia)and also 
physical condition (worsened peripheral edema, now can only walk 
a few steps with a walker, is incontinent).  She has been back 
and forth between rehab and the hospital.  At one point, family 
tried to see if she could function at ___ but she 
could not.  Currently she stays at ___ at ___ and is 
usually oriented x person, place.  However, on the day of 
presentation she was agitated, screaming loudly at staff, and 
was only oriented x1, prompting her to be sent to the ED.

In ___ VS were: T98.2, HR 151 (AFib), BP 
96/79, RR 25, POx 78%RA.  Due to RVR she received Diltiazem 5mg 
IV, and she dropped her BP slightly so received 250cc NS.  There 
was concern for hypoxia, but there was difficulty obtaining a 
peripheral pulse ox.  ABG on 100%NRB was ph 7.5/pCO2 25/PO2 316. 
 Labs were notable for WBC 8.8, Hct 34.5 (above baseline), BUN 
55/Cr 2.4 (baseline Cr 1.4). INR 4.  BNP 16562.  CXR showed left 
pleural effusion, could not r/o pneumonia.  She was given Lasix 
10mg IV and was started on BiPAP for CHF.  In addition, she 
received Vancomycin, Ceftriaxone, Azithromycin.  She was 
transferred due to hypotension.

In the ___ ED, initial VS were:  T 98.5, HR 94, BP 89/40, RR 
20, POx 86% 4L NC.  BP fluctuated widely, with SBP 45-90.  Again 
O2 sat was difficult to obtain, but with good pleth was 100% on 
NRB.  She was broadened to include Metronidazole in case of 
intraabdominal source of infection.  She received 3L IVF.  
Bedside ultrasound showed only a trace/physiologic pericardial 
effusion, good pump function.  EKG showed some peaked T waves 
anteriorly, with ___levation in V2, no reciprocal 
depression.  Patient was confirmed to be DNR/DNI; no central 
line was placed but she was started on peripheral 
Norepinephrine.  VS prior to transfer were: T 97.8, HR 109, BP 
90/palp, RR 20, POx 100% NRB.
 
On arrival to the MICU, patient is screaming and agitated.  She 
is asking for water.  Denies any fever, cough, abdominal pain.  
Breathing feels comfortable.
 
REVIEW OF SYSTEMS:  
(+) Per HPI.
Incontinent of urine.
Has had loose stools recently.
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough. Denies chest 
pain, chest pressure, palpitations, or weakness. Denies nausea, 
vomiting, constipation, abdominal pain, or changes in bowel 
habits. Denies dysuria, frequency, or urgency. Denies 
arthralgias or myalgias. Denies rashes or skin changes.
 
Past Medical History:
Atrial fibrillation on Warfarin
Congestive heart failure
Transient ischemic
Microscopic colitis
dementia (likely vascular given prior TIA)
CKD (baseline Cr of 1.8) 

 
Social History:
___
Family History:
Both parents died at a young age of unknown causes. Patient's 
daughter denies a family history of heart disease, diabetes and 
cancer.

 
Physical Exam:
ADMISSION EXAM:
Vitals: T 95.8 °F, HR 130 (AFib), BP 106/78, RR 18, SpO2 82% on 
NRB
General: Elderly lady, alert, oriented x person only, no acute 
respiratory distress  
HEENT: MMM, oropharynx clear, EOMI  
Neck: supple, JVP not elevated, no LAD  
CV: Tachycardic, irregular, S1 and S2 with no murmur
Lungs: Clear to auscultation bilaterally, no wheezes
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
Ext: cool, brawny stasis change bilaterally with R>L size, 2+ 
edema bilaterally
Neuro: face symmetric, ___ UE strength bilaterally, gait 
deferred

DISCHARGE EXAM:
patient expired
 
Pertinent Results:
ADMISSION LABS: 
___ 07:40PM BLOOD WBC-7.1 RBC-3.23* Hgb-11.1* Hct-35.6* 
MCV-110*# MCH-34.4* MCHC-31.2 RDW-16.4* Plt ___
___ 07:40PM BLOOD Neuts-86.0* Lymphs-9.5* Monos-2.5 Eos-1.9 
Baso-0.2
___ 07:40PM BLOOD ___ PTT-48.5* ___
___ 07:40PM BLOOD Glucose-123* UreaN-53* Creat-2.5*# Na-139 
K-5.4* Cl-104 HCO3-18* AnGap-22*
___ 07:40PM BLOOD ALT-20 AST-34 AlkPhos-137* TotBili-1.1
___ 07:40PM BLOOD Albumin-3.9 Calcium-9.1 Phos-5.0*# 
Mg-2.7*
___ 07:40PM BLOOD cTropnT-0.04*
___ 07:40PM BLOOD Lipase-93*
___ 07:40PM BLOOD Digoxin-<0.2*
___ 07:49PM BLOOD Lactate-2.8*
___ 07:49PM BLOOD pO2-46* pCO2-34* pH-7.38 calTCO2-21 Base 
XS--3 Comment-GREEN TOP 

URINALYSIS:
___ 07:43PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:43PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG

MICRO DATA:
___ URINE CULTURE-PENDING 
___ BLOOD CULTURE-PENDING 

CXR ___:
Left pleural effusion with underlying atelectasis or 
consolidation not excluded.

CXR ___:
Large region of consolidation and moderate left pleural effusion 
have both continued to increase since ___, and there is 
a suggestion of new consolidation in the right lobe, all of 
which points to progressive pneumonia.  Contribution of 
aspiration and retained secretions needs to be assessed.  There 
is no pulmonary edema despite severe chronic cardiomegaly.  
 
Brief Hospital Course:
Ms. ___ was a ___ lady with AFib on Warfarin, dCHF 
(EF55-60%), h/o TIA, dementia, and CKD who presented to ___ 
___ with shortness of breath, was found to have intermittent 
hypoxia, and was admitted to the MICU due to hypotension.  
Presentation was consistent with septic shock, possibly due to 
severe pneumonia.  Per goals of care discussion, invasive 
measures were not desired by patient or family, including 
central access or invasive blood pressure monitoring.  Attempt 
was initially made to treat with peripheral vasopressors, 
antibiotics, and fluids, but patient's clinical status 
deteriorated.  Decision was made to transition to 
comfort-focused care; her pain and dyspnea were controlled.  
Patient passed away comfortably at 13:23 on ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
2. Combigan *NF* (brimonidine-timolol) 0.2-0.5 % ___ 1 drop twice 
a day 
3. Warfarin 2 mg PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Fleet Enema ___AILY:PRN constipation 
6. Furosemide 40 mg PO DAILY 
7. Magnesium Citrate 300 mL PO ONCE as needed for constipation 
Duration: 1 Doses 
8. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
9. Potassium Chloride 20 mEq PO DAILY 
10. Senna 2 TAB PO HS:PRN constipation 
11. Thiamine 100 mg PO DAILY 
12. Metoprolol Succinate XL 50 mg PO DAILY 
13. TraMADOL (Ultram) 25 mg PO TID:PRN pain 
14. traZODONE 12.5 mg PO TID 
15. Calcium Carbonate 1000 mg PO HS 
16. Acetaminophen 650 mg PO Q4H:PRN pain 
17. Vitamin D 1000 UNIT PO DAILY 
18. Sertraline 25 mg PO DAILY 

 
Discharge Medications:
patient expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
patient expired
 
Discharge Condition:
patient expired
 
Discharge Instructions:
patient expired
 
Followup Instructions:
___